US08802728B2
Add H2O (4 mg, 0.25 mmol) and TMSCl (27 mg, 0.25 mmol) to a solution of (1R,2R,3S,4S,5S)-3-(3-hydroxyphenyl)-2,6,6-trimethyl-4-((methyl(phenethyl)amino)methyl)bicyclo[3.1.1]heptan-3-ol (100 mg, 0.25 mmol) in 2-butanone (5 mL). Stir the reaction mixture at room temperature for 3 hours. After removal solvent by evaporation, wash the residue with EtOAc (1 mL×2) and dry under vacuum to give (1R,2R,3S,4S,5S)-3-(3-hydroxyphenyl)-2,6,6-trimethyl-4-((methyl(phenethyl)amino)methyl)bicyclo[3.1.1]heptan-3-ol hydrochloride (93 mg, Yield: 85.3%) as white solid. 1H NMR (400 MHz, D2O) δ 7.21-7.32 (m, 7H), 7.97-7.99 (d, J=7.2, 1H), 6.71-6.78 (dd, J1=8.0, J2=22.0, 1H), 2.86-3.33 (m, 5H), 2.43-2.68 (m, 7H), 2.11-2.20 (m, 2H), 1.73-1.75 (m, 1H), 1.23-1.25 (d, J=5.6, 3H), 1.04-1.05 (d, J=4.4, 3H), 0.69-0.71 (d, J=5.6, 3H). [α]D20=−8.6 (c=1.4 mg/mL, MeOH).

reactant | H2O | 0.25 mmol, 4 mg | O | H2O
reactant | TMSCl | 0.25 mmol, 27 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | (1R,2R,3S,4S,5S)-3-(3-hydroxyphenyl)-2,6,6-trimethyl-4-((methyl(phenethyl)amino)methyl)bicyclo[3.1.1]heptan-3-ol | 0.25 mmol, 100 mg | OC=1C=C(C=CC1)[C@@]1([C@@H]([C@@H]2C([C@H]([C@H]1CN(CCC1=CC=CC=C1)C)C2)(C)C)C)O | C26H35NO2
solvent | 2-butanone | 5 mL | CC(CC)=O | C4H8O
product | (1R,2R,3S,4S,5S)-3-(3-hydroxyphenyl)-2,6,6-trimethyl-4-((methyl(phenethyl)amino)methyl)bicyclo[3.1.1]heptan-3-ol hydrochloride | 93 mg, Yield: 85.3% | Cl.OC=1C=C(C=CC1)[C@@]1([C@@H]([C@@H]2C([C@H]([C@H]1CN(CCC1=CC=CC=C1)C)C2)(C)C)C)O | InChI=1S/C26H35NO2.ClH/c1-18-22-16-23(25(22,2)3)24(26(18,29)20-11-8-12-21(28)15-20)17-27(4)14-13-19-9-6-5-7-10-19;/h5-12,15,18,22-24,28-29H,13-14,16-17H2,1-4H3;1H/t18-,22-,23+,24-,26-;/m1./s1
